US07199120B2
N-Cyclopropyl-2,3-bis[2-(cyclopropylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine was prepared by treating 7-chloro-2,3-bis[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine with cyclopropylamine as described in Example 7. 1H NMR, (CDCl3): δ 8.47 (d, 1H), 8.19 (d, 1H), 7.86 (d, 1H), 7.37 (t, 1H), 7.04 (d, 1H), 6.71 (d, 1H), 6.44 (d, 1H), 6.36 (s, 1H), 5.53 (s, 1H), 5.39 (s, 1H), 2.62–290 (m, 3H), 0.77–0.96 (m, 8H), 0.56–0.70 (m, 4H); MS m/z 440 (M+1).

reactant | 7-chloro-2,3-bis[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)S(=O)C)C2=NC(=NC=C2)S(=O)C | C17H13ClN6O2S2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-2,3-bis[2-(cyclopropylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine | C1(CC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CC2)C2=NC(=NC=C2)NC2CC2 | C24H25N9
